US06683201B2
A solution of 30 g (219 mmol) N-methyl-p-anisidine was dissolved in 250 ml 62% aqueous HBr and 435 ml acetic acid. The reaction mixture was heated to 110° C. for 8 h, cooled and evaporated to yield 44.1 g (99%) of 4-Methylamino-phenol hydrobromide (1:1) as a brown solid, MS: 124 (MH+).

reactant | N-methyl-p-anisidine | 219 mmol, 30 g | CNC1=CC=C(OC)C=C1 | C8H11NO
reactant | HBr | 250 ml | Br | BrH
solvent | acetic acid | 435 ml | C(C)(=O)O | C2H4O2
product | 4-Methylamino-phenol hydrobromide | 44.1 g, 99% | Br.CNC1=CC=C(C=C1)O | InChI=1S/C7H9NO.BrH/c1-8-6-2-4-7(9)5-3-6;/h2-5,8-9H,1H3;1H
